US05484942
100 g of sodium sulphide nonahydrate are added to a suspension of 140.8 g of 3,3-diphenyl-l,5-bis-(methanesulphonyl-oxy)pentane in 1400 cm3 of 1-butanol. The mixture is refluxed for 2 hours and then cooled to about 20° C. and then 1000 cm3 of water, 500 cm3 of ethyl acetate and 500 cm3 of dichloromethane are added. After stirring, the organic phase is separated, washed successively with 1000 cm3 of water, 500 cm3 of 1N hydrochloric acid, 500 cm3 of a saturated aqueous solution of sodium hydrogen carbonate and 1000 cm3 of water, and then dried over magnesium sulphate and concentrated to dryness at 60° C. under reduced pressure (2.7 kPa). The residue is crystallized from ethyl acetate, the crystals are washed with diisopropyl oxide, drained and dried. 76 g of 4,4-diphenyltetrahydrothiapyran are obtained in the form of white crystals; melting point 134° C.

reactant | sodium sulphide nonahydrate | 100 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | 3,3-diphenyl-l,5-bis-(methanesulphonyl-oxy)pentane | 140.8 g | C1(=CC=CC=C1)C(CCOS(=O)(=O)C)(CCOS(=O)(=O)C)C1=CC=CC=C1 | C19H24O6S2
reactant | water | 1000 cm3 | O | H2O
reactant | ethyl acetate | 500 cm3 | C(C)(=O)OCC | C4H8O2
solvent | 1-butanol | 1400 cm3 | C(CCC)O | C4H10O
solvent | dichloromethane | 500 cm3 | ClCCl | CH2Cl2
product | 4,4-diphenyltetrahydrothiapyran | 76 g | C1(=CC=CC=C1)C1(CCSCC1)C1=CC=CC=C1 | C17H18S
